// Generated for: spectre
// Generated on: Aug 19 21:00:58 2022
// Design library name: MAINLIB_TESTING
// Design cell name: SL_nand2
// Design view name: schematic
simulator lang=spectre
global 0
include "design_wrapper.lib" section=tt_fet
include "design_wrapper.lib" section=tt_rc
include "design_wrapper.lib" section=tt_parRC
include "design_wrapper.lib" section=tt_cell
include "design_wrapper.lib" section=models

// Library name: MAINLIB_TESTING
// Cell name: SL_nand2
// View name: schematic
MN1 (net13 in1 vss vss) nshort l=0.2 w=0.5 ad=0.0975 as=0.0975 pd=1.39 ps=1.39 nrs=0 nrd=0 m=1 mult=1
MN0 (out in0 net13 net13) nshort l=0.2 w=0.5 ad=0.0975 as=0.0975 pd=1.39 ps=1.39 nrs=0 nrd=0 m=1 mult=1
MP1 (out in1 vdd vdd) pshort l=0.2 w=0.4 ad=0.078 as=0.078 pd=1.19 ps=1.19 nrs=0 nrd=0 m=1 mult=1
MP0 (out in0 vdd vdd) pshort l=0.2 w=0.4 ad=0.078 as=0.078 pd=1.19 ps=1.19 nrs=0 nrd=0 m=1 mult=1
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6     iabstol=1e-12 temp=27 tnom=27 gmin=1e-12 rforce=1 maxnotes=5     maxwarns=5 digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output"     checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub

// SkySim test0
// target device: MP1 
VDD (vdd 0) vsource dc=1.2
VSS (vss 0) vsource dc=0
V0 (in1 0) vsource dc=0
V1 (in0 0) vsource dc=1.2
STRIKE (vdd out) isource type=pulse val0=0 val1=200u period=100n width=5p rise=1p fall=5p
sim tran stop=100p
